US04338259
In the past, alpha-halogeno-betaaminopropionitriles have been isolated in the form of the hydrochloride or benzoyl compound of alpha-chloro-beta-aminopropionitrile. For example, the method described in Japanese Patent Publication No. 30152/64 comprises reacting alpha-chloroacrylonitrile with aqueous ammonia, and treating the product with benzoyl chloride to isolate alpha-chloro-beta-benzoylpropionitrile. L. Doub et al., J. Heterocyclic Chem., Vol. 7, pp. 527-535 (June 1970) disclose isolating alpha-chloro-beta-aminopropionitrile hydrochloride in a yield of about 55% by dissolving ammonia gas in methanol, reacting alpha-chloroacrylonitrile with the solution, distilling off the unreacted ammonia and methanol under reduced pressure, adding 25% methanolic hydrochloride to the residue at a temperature of as low as -45° C. to -35° C., and treating the product with ether. However, both of these methods are not entirely satisfactory for commercial practice because the reaction operation is complex and the yield of the final product is low.

reactant | alpha-chloroacrylonitrile | ClC(C#N)=C | C3H2ClN
reactant | ammonia | N | H3N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | alpha-chloro-beta-benzoylpropionitrile | ClC(C#N)CC(C1=CC=CC=C1)=O | C10H8ClNO
